US07144899B2
Methylmagnesium bromide (6.29 g, 52.8 mmol) was added to a stirred solution of 4-chloro-2-methyl-benzonitrile (5.00 g, 33.0 mmol) in diethyl ether (44 mL). The mixture was heated to 40° C. After 72 h the mixture was cooled to room temperature and poured into a stirred mixture of anhydrous diethyl ether (120 mL), ice water (100 mL), and 10% aqueous HCl (100 mL). The aqueous layer was separated, stirred at reflux for 1 h, then was cooled to room temperature and was extracted into diethyl ether (4×50 mL). The organic layers were combined, washed with saturated NaHCO3 and brine, dried (Na2SO4) and concentrated in vacuo. 1-(4-Chloro-2-methylphenyl)ethanone was obtained as an oil. 1H NMR (CDCl3, 400 MHz) δ 2.52 (s, 3H), 2.56 (d, J=0.7 Hz, 3H), 7.24 (m, 2H), 7.65 (d, J=8.8 Hz, 1H).

reactant | Methylmagnesium bromide | 52.8 mmol, 6.29 g | C[Mg]Br
reactant | 4-chloro-2-methyl-benzonitrile | 33.0 mmol, 5.00 g | ClC1=CC(=C(C#N)C=C1)C | C8H6ClN
reactant | HCl | 100 mL | Cl | ClH
reactant | diethyl ether | 44 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 120 mL | C(C)OCC | C4H10O
product | 1-(4-Chloro-2-methylphenyl)ethanone | ClC1=CC(=C(C=C1)C(C)=O)C | C9H9ClO
